US08198279B2
Ethyl 3-tert-butyl-1-(2-(dimethylamino)ethyl)-1H-pyrazole-5-carboxylate
Method I was used with ethyl 3-tert-butyl-1H-pyrazole-5-carboxylate (124 mg, 0.632 mmol), caesium carbonate (624 mg, 1.915 mmol) and 2-chloro-N,N-dimethylethanamine hydrochloride (96.8 mg, 0.672 mmol). 48 hours reaction time. Column eluent: 50→100% EtOAc in CH2Cl2, followed by 0→10% MeOH in EtOAc. Yield: 103 mg (61%) of a colorless oil.

reactant | ethyl 3-tert-butyl-1H-pyrazole-5-carboxylate | 0.632 mmol, 124 mg | C(C)(C)(C)C1=NNC(=C1)C(=O)OCC | C10H16N2O2
reactant | caesium carbonate | 1.915 mmol, 624 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 0.672 mmol, 96.8 mg | Cl.ClCCN(C)C
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3-tert-butyl-1-(2-(dimethylamino)ethyl)-1H-pyrazole-5-carboxylate | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)CCN(C)C | C14H25N3O2
